US08119624B2
3-Hydroxy-5-(3-methyl-but-2-enyloxy)-benzoic acid methyl ester
The title compound was prepared in a similar manner as described for Intermediate 1a, from methyl 3,5-dihydroxybenzoate (11.3 g, 67 mmol), potassium carbonate (18.5 g, 134 mmol), and 1-bromo-3-methyl-but-2-ene (10 g, 67 mmol). Purification by column chromatography eluting with 20% EtOAc in hexane gave a pale yellow solid (3.41 g, 20% yield). 1H NMR (400 MHz, CDCl3) δ 7.17-7.20 (m, 1 H) 7.12-7.17 (m, 1 H) 6.63 (t, J=2.27 Hz, 1 H) 5.41-5.51 (m, 1 H) 5.50 (s, 1H) 4.53 (d, J=6.57 Hz, 2 H) 3.91 (m, 3 H) 1.80 (s, 3 H) 1.69 (s, 3 H); LCMS for C13H16O4 m/z 237.10 (M+H)+.

reactant | methyl 3,5-dihydroxybenzoate | 67 mmol, 11.3 g | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | potassium carbonate | 134 mmol, 18.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methyl-but-2-ene | 67 mmol, 10 g | BrCC=C(C)C | C5H9Br
product | 3-Hydroxy-5-(3-methyl-but-2-enyloxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCC=C(C)C)O)=O | C13H16O4
